US07192974B2
1-methyl-2-piperidone (5 ml, 44.1 mmol) was combined with barium hydroxide (3.8 g, 26.95 mmol) and water (55 ml). The suspension was warmed to 110° C. for 6 hours then cooled over an ice bath. Gaseous carbon dioxide was bubbled through the solution for 20 minutes. The suspension was filtered through a celite pad and the filtrate was concentrated to dryness. The residue was triturated with acetonitrile, collected, rinsed with ether and dried in vacuo to yield 5-(methylamino)pentanoic acid as a white solid (2.95 g). 5-(Methylamino)pentanoic acid (2 g, 15.3 mmol), and potassium carbonate (13 g, 94 mmol) were suspended in water (30 ml) and dioxane (10 ml) then cooled to 0° C. Methyl chloroformate (5 ml, 65 mmol) was added over 30 seconds, then the mixture was stirred and allowed to warm slowly to room temperature for 16 hours. Conc. HCl (20 ml) was added then the mixture was diluted with water and extracted with ethyl acetate. The organic layer was dried over magnesium sulfate, evaporated and dried in vacuo to give 5-[(methoxycarbonyl)(methyl)amino]pentanoic acid as a thick clear oil (2.56 g).

reactant | 1-methyl-2-piperidone | 44.1 mmol, 5 ml | CN1C(CCCC1)=O | C6H11NO
reactant | barium hydroxide | 26.95 mmol, 3.8 g | [OH-].[Ba+2].[OH-]
solvent | water | 55 ml | O | H2O
product | 5-(methylamino)pentanoic acid | 2.95 g | CNCCCCC(=O)O | C6H13NO2
